US04771050
A mixture of 2-(2-bromo-3-methylbutyryl)aminophenol (58.0 g), powdered potassium carbonate (38.3 g) and N,N-dimethylformamide (200 ml) was stirred at room temperature for 2 hours. The mixture was diluted with water and the precipitate was collected to yield 2-isopropyl-2H-1,4-benzoxazin-3(4H)-one as crystals. Yield was 38.1 g (93.4%). Recrystallization from ethanol gave colorless plates, mp 118°-119° C. In the same manner as in Reference Example 1, the following compounds were obtained.

reactant | 2-(2-bromo-3-methylbutyryl)aminophenol | 58.0 g | BrC(C(=O)NC1=C(C=CC=C1)O)C(C)C | C11H14BrNO2
reactant | potassium carbonate | 38.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-isopropyl-2H-1,4-benzoxazin-3(4H)-one | C(C)(C)C1OC2=C(NC1=O)C=CC=C2 | C11H13NO2
